US06835846B2
Pyridine (20 ml) was added to a methylene chloride (50 ml) solution of the 3-methyldodecan-1-ol (4″) (12.8 g, 63.9 mols), and p-toluenesulfonyl chloride (12.8 g, 67.1 mmols) was further added under ice-cooling. The reaction mixture was stirred overnight at 4° C., then poured into diluted hydrochloric acid, and extracted with hexane. The organic layer was washed (water, a saturated aqueous solution of sodium bicarbonate, a saturated aqueous solution of sodium chloride), dried (magnesium sulfate), and concentrated under reduced pressure to obtain 21.7 g of a tosylate. Sodium bromide (9.9 g, 96 mols) was added to a DMF solution (100 ml) of the resulting tosylate, and the mixture was stirred overnight at room temperature. The reaction mixture was poured into water, and extracted with hexane. The organic layer was washed (water and a saturated aqueous solution of sodium chloride), dried (magnesium sulfate), and concentrated under reduced pressure to obtain 1-bromo-3-methyldodecane (5″) (15.1 g, 90%). 1H-NMR (90 MHz, CDCl3) 0.8-1.0 (6H,m,Me), 1.0-2.0 (19H,m,2˜11-H), 3.43 (2H,br t,J=7,1-H).

reactant | Sodium bromide | 96 mols, 9.9 g | [Br-].[Na+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
solvent | water | O | H2O
product | 1-bromo-3-methyldodecane | BrCCC(CCCCCCCCC)C | C13H27Br
